US05922717
(5) Cyclohexyl 4-[[4-(4-piperidinyl)-piperazin-1-yl]carbonylamino]piperidinoacetate trihydrochloride
Prepared from 4-[[4-(4-piperidinyl)-piperazin-1-yl]carbonylamino]piperidinoacetic acid dihydrochloride and cyclohexanol.

reactant | 4-[[4-(4-piperidinyl)-piperazin-1-yl]carbonylamino]piperidinoacetic acid dihydrochloride | Cl.Cl.N1CCC(CC1)N1CCN(CC1)C(=O)NC1CCN(CC1)CC(=O)O
reactant | cyclohexanol | C1(CCCCC1)O | C6H12O
product | Cyclohexyl 4-[[4-(4-piperidinyl)-piperazin-1-yl]carbonylamino]piperidinoacetate trihydrochloride | Cl.Cl.Cl.N1CCC(CC1)N1CCN(CC1)C(=O)NC1CCN(CC1)CC(=O)OC1CCCCC1 | InChI=1S/C23H41N5O3.3ClH/c29-22(31-21-4-2-1-3-5-21)18-26-12-8-19(9-13-26)25-23(30)28-16-14-27(15-17-28)20-6-10-24-11-7-20;;;/h19-21,24H,1-18H2,(H,25,30);3*1H
